US04171366
From 4.9 g (0.2 mole) of magnesium, 31.2 g (0.2 mole) of ethyl iodide in abs. ether and 23.2 g (0.1 mole) of benzo[f]thieno[2,3-b]thiepin-4(5H)-one, there is obtained 4-ethyl-4,5-dihydro-benzo[f]thieno[2,3-b]thiepin-4-ol as an oily crude product.

reactant | magnesium | 0.2 mole, 4.9 g | [Mg] | Mg
reactant | ethyl iodide | 0.2 mole, 31.2 g | C(C)I | C2H5I
reactant | 4-ethyl-4,5-dihydro-benzo[f]thieno[2,3-b]thiepin-4-ol | C(C)C1(C2=C(SC3=C(C1)C=CC=C3)SC=C2)O | C14H14OS2
solvent | ether | CCOCC | C4H10O
product | benzo[f]thieno[2,3-b]thiepin-4(5H)-one | 0.1 mole, 23.2 g | S1C=CC2=C1SC1=C(CC2=O)C=CC=C1 | C12H8OS2
